US04093812
Add 36 g of 98% nitrosylsulfuric acid (under cooling with ice) dropwise to a suspension of 50 g 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide in 830 ml of 89% orthophosphoric acid, whereupon the temperature rises from 0° C to 35° C. Stir the resulting reaction mixture for 18 hours at room temperature and pour the produced solution onto 5 kg of ice and water. Separate the formed precipitate and wash it with water until it is no longer acid to obtain a 98% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid [m.p. 264° to 265.5° C (with decomposition) from dioxane].

reactant | nitrosylsulfuric acid | 36 g | N(=O)OS(O)(=O)=O | HNO5S
reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide | 50 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)N)C1=CC=CC=C1 | C14H10N4O4
reactant | water | O | H2O
solvent | orthophosphoric acid | 830 ml | P(O)(O)(O)=O | H3O4P
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid | 98% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)O)C1=CC=CC=C1 | C14H9N3O5
